US06528525B1
Concentrated sulfuric acid (0.14 ml) were added to a suspension of methyl 3-aminopyridine-6-ylbenzoate (425 mg) and sodium bromide (383 mg) in water at 0° C. (10 ml) and then a solution of sodium nitrite (295 mg) in water (1.5 ml) was added dropwise to the mixture at 80° C. The mixture was stirred at the same temperature for 15 minutes. At the end of this time a solution of amidosulfuric acid and concentrated sulfuric acid (0.21 ml) in water (1.60 ml) was added to the reaction mixture and this mixture was stirred for 1.5 hours at 80° C. and at ambient tmperature for 1 hour and then allowed to stand for 14 hours. The pH of the reaction mixture was adjusted to pH 8 with aqueous sodium hydroxide solution (1N). After addition of acetic anhydride (2.00 ml) to the solution, the mixture was stirred at ambient temperature for 30 minutes. The reaction mixture was partitioned between ethyl acetate and water and the ethyl acetate layer was separated and washed with saturated aqueous sodium chloride solution and dried over anhydrous magnesium sulfate. The ethyl acetate was distilled off under reduced pressure to afford a mixture (457 mg) of methyl 5-acetoxypyridine-2-ylbenzoate and methyl 5-hydroxypyridine-2-ylbenzoate. In a similar manner to that described in Example 2, a reaction was carried out using the mixture obtained above and aqueous sodium hydroxide solution (1N, 2.10 ml) and the reaction mixture was treated to afford 5-hydroxypyridine-2-ylbenzoic acid as a white powder. In a similar manner that described in Reference example 1(c) a reaction was carried out using 5-hydroxypyridine-2-ylbenzoic acid obtained above, sodium hydride (55% suspension in oil, 174 mg) and methyl iodide (0.35 ml) and the reaction mixture was treated to afford the desired compound (429 mg) as colorless crystals

reactant | sulfuric acid | 0.14 ml | S(O)(O)(=O)=O | H2O4S
reactant | methyl 3-aminopyridine-6-ylbenzoate | 425 mg | NC=1C=NC(=CC1)C1=C(C(=O)OC)C=CC=C1 | C13H12N2O2
reactant | sodium bromide | 383 mg | [Br-].[Na+]
reactant | sodium nitrite | 295 mg | N(=O)[O-].[Na+]
reactant | amidosulfuric acid | S(O)(=O)(=O)N | H3NO3S
reactant | sulfuric acid | 0.21 ml | S(O)(O)(=O)=O | H2O4S
reactant | sodium hydroxide | 1N | [OH-].[Na+]
reactant | acetic anhydride | 2.00 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | water | O | H2O
solvent | water | 1.5 ml | O | H2O
solvent | water | 1.60 ml | O | H2O
product | methyl 5-acetoxypyridine-2-ylbenzoate | 457 mg | C(C)(=O)OC=1C=CC(=NC1)C1=C(C(=O)OC)C=CC=C1 | C15H13NO4
